US07504411B2
To a suspension of (S)-2-(4′-methoxybiphen-4-yl)-piperazine dihydrochloride (237 mg, 0.694 mmol) in tetrahydrofuran (5 mL) was added triethylamine (0.40 mL, 2.9 mmol) and then 2-chloro-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one (128 mg, 0.579 mmol) at room temperature. After stirring for 28 h, the resulting mixture was concentrated in vacuo. The residue was partitioned between dichloromethane and saturated sodium bicarbonate aqueous solution, and the organic layer was dried over anhydrous sodium sulfate and then concentrated in vacuo. The resulting solid was washed with hot ethanol to afford (S)-2-(3-(4-methoxybiphen-4-yl)piperazin-1-yl)-3-methyl-6-(4-pyridyl)pyrimidin-4-one (252 mg, 96%), which was treated with 4 N hydrogen chloride in ethyl acetate to yield its dihydrochloride salt (252 mg) as pale yellow crystals.

reactant | (S)-2-(4′-methoxybiphen-4-yl)-piperazine dihydrochloride | 0.694 mmol, 237 mg | Cl.Cl.COC1=CC=C(C2=CC=C(C=C2)[C@@H]2NCCNC2)C=C1
reactant | triethylamine | 2.9 mmol, 0.40 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one | 0.579 mmol, 128 mg | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (S)-2-(3-(4-methoxybiphen-4-yl)piperazin-1-yl)-3-methyl-6-(4-pyridyl)pyrimidin-4-one | 252 mg, 96% | COC1(CC=C(C=C1)C1=CC=CC=C1)[C@@H]1CN(CCN1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C27H29N5O2
